US03963736
To 120 ml of 5% ethanolic sodium hydroxide solution was added 6 g of ethyl 4-ethoxy-6,7-methylenedioxyquinoline-3-carboxylate with stirring, and the mixture was stirred further for 15 minutes at room temperature then concentrated to a small volume under reduced pressure. A small amount of water was added to the residue, the pH of the solution was adjusted to 5 by the addition of hydrochloric acid, and the precipitate thus formed was filtered, washed with water and dried to provide 5.2 g of almost pure 4-ethoxy-6,7-methylenedioxyquinoline-3-caboxylic acid having a melting point of 250°-253°C. Recrystallization from dimethyl sulfoxide gave colorless needles having a melting point of 252°C (decomposed).

reactant | ethyl 4-ethoxy-6,7-methylenedioxyquinoline-3-carboxylate | 6 g | C(C)OC1=C(C=NC2=CC3=C(C=C12)OCO3)C(=O)OCC | C15H15NO5
solvent | sodium hydroxide | 120 ml | [OH-].[Na+]
product | 4-ethoxy-6,7-methylenedioxyquinoline-3-caboxylic acid | C(C)OC1=C(C=NC2=CC3=C(C=C12)OCO3)C(=O)O | C13H11NO5
